US04886814
N-[2-(4-Carboxyphenyl)-1-methylethyl]-2-hydroxy-2-(2-trifluoromethyl-thiazol-4-yl)ethanamine
Prepared analogously to Example 2 by reaction of N-[2-(4-carbomethoxyphenyl)-1-methylethyl]-2-hydroxy-2-(2-trifluoromethyl-thiazol-4-yl)ethanamine with 1N sodium hydroxide solution. After neutralisation with hydrochloric acid, the mixture is evaporated to dryness and the residue is treated with a mixture of ethyl acetate/ethanol=6:1. The extract is evaporated to dryness and the residue is triturated with 5 ml of water. The water is decanted off and the remaining residue is taken up in methanol, the solution is evaporated to dryness, and the residue is triturated with ether and filtered off with suction.

reactant | N-[2-(4-carbomethoxyphenyl)-1-methylethyl]-2-hydroxy-2-(2-trifluoromethyl-thiazol-4-yl)ethanamine | C(=O)(OC)C1=CC=C(C=C1)CC(C)NCC(C=1N=C(SC1)C(F)(F)F)O | C17H19F3N2O3S
reactant | sodium hydroxide | 1N | [OH-].[Na+]
product | N-[2-(4-Carboxyphenyl)-1-methylethyl]-2-hydroxy-2-(2-trifluoromethyl-thiazol-4-yl)ethanamine | C(=O)(O)C1=CC=C(C=C1)CC(C)NCC(C=1N=C(SC1)C(F)(F)F)O | C16H17F3N2O3S
